US06806230B1
49.2 g (0.30 mol) of 1-(4-ethylpyrimidin-5-yl)propan-1-one was dissolved in 500 ml of carbon tetrachloride, and 53 g (0.30 mol) of N-bromosuccinimide and 0.3 g of azoisobutyronitrile were added, followed by refluxing for 2 hours. After cooling, crystals were removed by filtration, and the filtrate was concentrated and the obtained oily product was purified by column chromatography (ethyl acetate:n-hexane=1:4 to 1:2) to obtain 64.3 g (yield: 89%) of 2-bromo-1-(4-ethylpyrimidin-5-yl)-propan-1-one as yellow liquid.

reactant | 1-(4-ethylpyrimidin-5-yl)propan-1-one | 0.30 mol, 49.2 g | C(C)C1=NC=NC=C1C(CC)=O | C9H12N2O
reactant | N-bromosuccinimide | 0.30 mol, 53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-1-(4-ethylpyrimidin-5-yl)-propan-1-one | 64.3 g, yield: 89% | BrC(C(=O)C=1C(=NC=NC1)CC)C | C9H11BrN2O
